US05591891
Using the procedure described in Example 60, but starting with 2-acetylthiomethyl-3-(4-hydroxyphenyl)butanoic acid and alanine benzyl ester, N-[2-acetylthiomethyl-3-(4-hydroxyphenyl)-1-oxobutyl]alanine benzyl ester is obtained in a 69% yield, the characteristics of which are as follows: Rf= 0.22 [hexane/ethyl acetate (65:35 by volume)].

reactant | 2-acetylthiomethyl-3-(4-hydroxyphenyl)butanoic acid | C(C)(=O)SCC(C(=O)O)C(C)C1=CC=C(C=C1)O | C13H16O4S
reactant | alanine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](N)C)=O | C10H13NO2
product | N-[2-acetylthiomethyl-3-(4-hydroxyphenyl)-1-oxobutyl]alanine benzyl ester | 69% yield | C(C1=CC=CC=C1)OC([C@@H](NC(C(C(C)C1=CC=C(C=C1)O)CSC(C)=O)=O)C)=O | C23H27NO5S
